US04575565
Preparation of 2-(3-Methylphenyl)-1,3-Dithiolane
Anhydrous HCl was bubbled rapidly for about 5 minutes through a solution of 46.87 gm (0.39 moles) of 3-methylbenzaldehyde and 44.92 gm (0.477 moles) of 1,2-ethanedithiol in 300 ml of CHCl3. During the addition of HCl, there was a slight exotherm with a rise in temperature to about 60° C. After completion of the addition of HCl, the reaction was stirred for 1 hour at room temperature, washed twice with 100 ml portions of water, dried with MgSO4, and fractionated to give 54.55 gm (0.278 moles) of a clear, colorless liquid (71% yield) b.p. 108°-110° C. (0.2 mm/Hg). Elemental analysis for C10H12S2 :

reactant | HCl | Cl | ClH
reactant | 3-methylbenzaldehyde | 0.39 moles, 46.87 gm | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | 1,2-ethanedithiol | 0.477 moles, 44.92 gm | C(CS)S | C2H6S2
solvent | CHCl3 | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-Methylphenyl)-1,3-Dithiolane | 71% yield | CC=1C=C(C=CC1)C1SCCS1 | C10H12S2
